US05500453
A solution of 1.85 g of lithium benzyltriethylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of diphenyl(p-phenylthiobenzyl)sulfonium hexafluorophosphate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.04 g of diphenyl(p-phenylthiobenzyl)sulfonium-benzyltriethylborate.

reactant | lithium benzyltriethylborate | 1.85 g | C(C1=CC=CC=C1)[B-](CC)(CC)CC.[Li+]
reactant | diphenyl(p-phenylthiobenzyl)sulfonium hexafluorophosphate | 5.00 g | F[P-](F)(F)(F)(F)F.C1(=CC=CC=C1)[S+](CC1=CC=C(C=C1)SC1=CC=CC=C1)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl(p-phenylthiobenzyl)sulfonium benzyltriethylborate | 2.04 g | C1(=CC=CC=C1)[S+](CC1=CC=C(C=C1)SC1=CC=CC=C1)C1=CC=CC=C1.C(C1=CC=CC=C1)[B-](CC)(CC)CC | InChI=1S/C25H21S2.C13H22B/c1-4-10-22(11-5-1)26-23-18-16-21(17-19-23)20-27(24-12-6-2-7-13-24)25-14-8-3-9-15-25;1-4-14(5-2,6-3)12-13-10-8-7-9-11-13/h1-19H,20H2;7-11H,4-6,12H2,1-3H3/q+1;-1
